US09029402B2
A mixture of ethyl 3-(1-(4-(1H-imidazol-1-yl)phenyl)-2-(4-carbamoyl-2-methylphenyl)-1H-pyrrol-3-yl)propanoate (25 mg, 0.057 mmol) and LiOH monohydrate (42 mg, 1 mmol) in a mixture of methanol (1.5 mL) and water (0.5 mL), and the reaction mixture was stirred at room temperature overnight. Methanol was removed under reduced pressure, and the residue was diluted with water (5 mL), and the aqueous layer was washed with ethyl acetate (5 mL×3). The aqueous layer was adjusted to PH=6-7 with 1N HCl, and the resulting mixture was extracted with a mixture of dichloromethane and isopropanol (3:1, 5 mL×3). The combined organic layer was dried, and evaporated to give 3-(1-(4-(1H-imidazol-1-yl)phenyl)-2-(4-carbamoyl-2-methylphenyl)-1H-pyrrol-3-yl)propanoic acid, (5-4, R1=1H-imidazol-1-yl) (12 mg, yield: 51%) as a yellow solid.

reactant | ethyl 3-(1-(4-(1H-imidazol-1-yl)phenyl)-2-(4-carbamoyl-2-methylphenyl)-1H-pyrrol-3-yl)propanoate | 0.057 mmol, 25 mg | N1(C=NC=C1)C1=CC=C(C=C1)N1C(=C(C=C1)CCC(=O)OCC)C1=C(C=C(C=C1)C(N)=O)C | C26H26N4O3
solvent | methanol | 1.5 mL | CO | CH4O
solvent | water | 0.5 mL | O | H2O
product | 3-(1-(4-(1H-imidazol-1-yl)phenyl)-2-(4-carbamoyl-2-methylphenyl)-1H-pyrrol-3-yl)propanoic acid | yield: 51% | N1(C=NC=C1)C1=CC=C(C=C1)N1C(=C(C=C1)CCC(=O)O)C1=C(C=C(C=C1)C(N)=O)C | C24H22N4O3
